US04256733
Benzyl 6,6-Dibromo-2,2-dimethyl-(5R)penam-3-carboxylate
To a stirred solution of 1646 g. of 6,6-dibromo-2,2-dimethyl-(5R)penam-3α-carboxylic acid in 10.1 liters of N,N-dimethylacetamide was added 709 ml. of triethylamine during 10 minutes at ca. 0° C. The temperature was adjusted to 10° C., and 602 ml. of benzyl bromide was added during 4 minutes. To the reaction mixture was then added 941 g. of 4A molecular sieves, and then the reaction mixture was stirred overnight without external cooling. At this point, the reaction mixture was filtered and the filtrate was added to a mixture of 44 liters of ice-water and 14 liters of ethyl acetate. The pH of the aqueous phase was adjusted to 2.0 using 6 N hydrochloric acid, and the layers were separated. The aqueous layer was extracted with further ethyl acetate and the combined ethyl acetate solutions were washed sequentially with 14 liters of saturated, aqueous sodium bicarbonate and 14 liters of saturated, aqueous sodium chloride. The ethyl acetate solution was dried (Na2SO4), and then it was evaporated in vacuo at 25° C. The residue was dissolved in 5.5 liters of isopropyl alcohol at 60° C., and then the isopropyl alcohol solution was cooled slowly with stirring. The solid which precipitated was recovered by filtration, washed with cold isopropyl alcohol and then air dried. This afforded 1777 g. (85% yield) of the title product. The NMR spectrum (CDCl3) showed absorptions at 1.40 (s, 3H), 1.55 (s, 3H), 4.55 (s, 1H), 5.20 (s, 2H), 5.75 (s, 1H) and 7.35 (s, 5H) ppm.

reactant | 6,6-dibromo-2,2-dimethyl-(5R)penam-3α-carboxylic acid | BrC1([C@@H]2N([C@H](C(S2)(C)C)C(=O)O)C1=O)Br | C8H9Br2NO3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylacetamide | 10.1 liters | CN(C(C)=O)C | C4H9NO
product | Benzyl 6,6-Dibromo-2,2-dimethyl-(5R)penam-3-carboxylate | 85% yield | BrC1([C@@H]2N(C(C(S2)(C)C)C(=O)OCC2=CC=CC=C2)C1=O)Br | C15H15Br2NO3S
